US07691876B2
Preparation of 7-chloro-5-methyl-1H-pyrrolo[2,3-c]pyridine (P1.1)
Vinylmagnesium bromide solution (1 M in THF, 111 mL, 111 mmol) was added dropwise at −78° C. to a solution of 2-chloro-3-nitro-6-picoline (6.19 g, 35.2 mmol) in THF (200 mL). The dry ice cooling bath was replaced by an ice/NaCl cooling bath, and the reaction mixture was allowed to reach RT over 18 h, then the reaction mixture was carefully treated with 20% aq. ammonium chloride solution (210 mL). The reaction mixture was extracted with ethyl acetate, the organic layer was dried (MgSO4), and evaporated. Chromatography of the residue (SiO2, heptane/ethyl acetate gradient) afforded the title compound (2.58 g, 44%). Orange solid, MS (EI) 166.1 (100, M+).

reactant | Vinylmagnesium bromide | 111 mmol, 1 M, 111 mL | C(=C)[Mg]Br
reactant | 2-chloro-3-nitro-6-picoline | 35.2 mmol, 6.19 g | ClC1=NC(=CC=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | dry ice | C(=O)=O | CO2
reactant | ammonium chloride | 210 mL | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 7-chloro-5-methyl-1H-pyrrolo[2,3-c]pyridine | 2.58 g, 44% | ClC=1N=C(C=C2C1NC=C2)C | C8H7ClN2
